US07498337B2
methyl 2-cyano-4-(2-fluorophenyl)-3-methyl-4-oxobutanoate
To a solution of methyl cyanoacetate (15.5 mL) and diisopropylethylamine (64 mL) in tetrahydrofuran (110 mL) was added a solution of 2-bromo-1-(2-fluorophenyl)propan-1-one (36.8 g) in tetrahydrofuran (160 mL), and the mixture was stirred at 70° C. for 20 hr. The reaction mixture was allowed to cool to room temperature, the insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=5:1) to give the title compound as a brown oil (yield 31.9 g, 80%).

reactant | methyl cyanoacetate | 15.5 mL | C(#N)CC(=O)OC | C4H5NO2
reactant | diisopropylethylamine | 64 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-bromo-1-(2-fluorophenyl)propan-1-one | 36.8 g | BrC(C(=O)C1=C(C=CC=C1)F)C | C9H8BrFO
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
product | methyl 2-cyano-4-(2-fluorophenyl)-3-methyl-4-oxobutanoate | yield 31.9 g, 80% | C(#N)C(C(=O)OC)C(C(=O)C1=C(C=CC=C1)F)C | C13H12FNO3
